US07410976B2
A mixture of 24.8 g of 4-methoxyacetanilide, 37.3 mL of acetyl chloride and 250 mL of CH2Cl2 was refluxed until the insoluble solid was dissolved, and then cooled to 0° C. 70.0 g of AlCl3 was gradually added thereto, and then the mixture was heated under reflux for 5 hours. The reaction mixture was poured into 500 mL of water with ice, and stirred for 30 minutes. The resulting precipitate was collected through filtration, washed with water and dried under vacuum to obtain 23.5 g of 5-acetylamino-2-hydroxyacetophenone. 9.96 g of N-Boc-piperidin-4-one, 4.17 mL of pyrrolidine and 75 mL of MeOH were added to 9.66 g of the product, and heated under reflux for 13 hours. The reaction mixture was concentrated, cold MeOH was added to the residue, and the insoluble solid was taken out through filtration and dried under vacuum to obtain 16.3 g of N-{1′-[(tert-butoxy)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}acetamide. TFA (43 mL) cooled at 0° C. was gradually added to 16.1 g of the product, and stirred at room temperature for 1 hour. The reaction mixture was concentrated, and TFA still remaining therein was removed through codistillation with toluene added thereto, and 50 mL of Et2O was added to the residue. The resulting insoluble solid was taken out through filtration, washed with Et2O/EtOAc (1/2), and dried under vacuum to obtain N-{4-oxospiro[chroman-2,4′-piperidin]-6-yl}acetamide TFA salt.

reactant | N-Boc-piperidin-4-one | 9.96 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | pyrrolidine | 4.17 mL | N1CCCC1 | C4H9N
solvent | MeOH | 75 mL | CO | CH4O
product | N-{1′-[(tert-butoxy)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}acetamide | 16.3 g | C(C)(C)(C)OC(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)NC(C)=O | C20H26N2O5
